US08114865B2
Preparation of 2-amino-4-(4-methyl-piperazin-1-yl)-benzoic acid tert-butyl ester
A mixture of 4-(4-methyl-piperazin-1-yl)-2-nitro-benzoic acid tert-butyl ester (13.3 g, 41.5 mmol) cyclohexene (45 mL), ethanol (300 mL) and 10% Pd/C (0.4 g) was stirred at 80° C. for 7 hours. Additional 10% Pd/C was added (0.9 g) and the mixture stirred at 80° C. for additional 4 hours. The reaction mixture was filtered over a celite pad washing thoroughly with ethanol and the filtrate was evaporated to dryness affording the title compound as a pale yellow solid (11.5 g, 95% yield).

reactant | 4-(4-methyl-piperazin-1-yl)-2-nitro-benzoic acid tert-butyl ester | 41.5 mmol, 45 mL, 13.3 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)N1CCN(CC1)C)[N+](=O)[O-])=O | C16H23N3O4
catalyst | Pd/C | 0.4 g | [Pd] | Pd
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 2-amino-4-(4-methyl-piperazin-1-yl)-benzoic acid tert-butyl ester | 11.5 g, 95% yield | C(C)(C)(C)OC(C1=C(C=C(C=C1)N1CCN(CC1)C)N)=O | C16H25N3O2
